US07087626B2
[2-Methyl-2-({4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline-7-carbonyl}-amino)-propyl]-carbamic acid tert-butyl ester
To a solution of 4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline-7-carboxylic acid (0.16 g, 0.43 mmol), (2-amino-2-methyl-propyl)-carbamic acid tert-butyl ester (0.09 g, 0.47 mmol), EDC (0.09 g, 0.47 mmol), 1-hydroxybenzotriazole (0.06 g, 0.47 mmol) in dichloromethane (8.6 mL) is added N,N-diisopropylethylamine (0.25 mL, 1.29 mmol). The mixture is stirred at room temperature for 18 hand concentrated in vacuo. The residue is taken up in ethyl acetate, washed with water and saturated aqueous sodium chloride, dried over sodium sulfate and concentrated in vacuo. The residue is chromatographed on SiO2 (methanol/dichloromethane/2:98) to yield the title compound 0.21 g (91%) as a white solid.

reactant | 4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline-7-carboxylic acid | 0.43 mmol, 0.16 g | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)C(=O)O | C22H18N4O2
reactant | (2-amino-2-methyl-propyl)-carbamic acid tert-butyl ester | 0.47 mmol, 0.09 g | C(C)(C)(C)OC(NCC(C)(C)N)=O | C9H20N2O2
reactant | EDC | 0.47 mmol, 0.09 g
reactant | 1-hydroxybenzotriazole | 0.47 mmol, 0.06 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 1.29 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 8.6 mL | ClCCl | CH2Cl2
product | [2-Methyl-2-({4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline-7-carbonyl}-amino)-propyl]-carbamic acid tert-butyl ester | 0.21 g, 91% | C(C)(C)(C)OC(NCC(C)(NC(=O)C1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2)C)=O | C31H36N6O3
